US20010027196A1
2-Amino-4-(5-chloro-furan-2-yl)-6-(3,5-dimethyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-furan-2-yl-pyrimidine-5-carbonitrile and N-chlorosuccinimide in DMF. ES-MS m/e (%): 358 (M{37Cl}+H+, 30), 356 (M{35Cl}+H+, 100).

reactant | 2-amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=C(C=C1C)C)C#N)C=1OC=CC1 | C17H15N5O2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(5-chloro-furan-2-yl)-6-(3,5-dimethyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)Cl)C#N)OCC1=NC=C(C=C1C)C | C17H14ClN5O2
